US05563162
To a mixture of 8-(2,6-dichloro-3-nitrobenzyloxy)-2-methylquinoline (1.0 g), concentrated hydrochloric acid (5.2 ml) and methanol (5.2 ml) was added iron powder (666 mg). The mixture was heated under reflux for 2 hours and stirred in an ice-water bath for 1 hour. The precipitate was collected by vacuum filtration and washed with 1N hydrochloric acid and water to give 8-(3-amino-2,6-dichlorobenzyloxy)-2-methylquinoline dihydrochloride (635 mg) as a brownish powder.

reactant | 8-(2,6-dichloro-3-nitrobenzyloxy)-2-methylquinoline | 1.0 g | ClC1=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC=C1[N+](=O)[O-])Cl | C17H12Cl2N2O3
reactant | hydrochloric acid | 5.2 ml | Cl | ClH
catalyst | iron | 666 mg | [Fe] | Fe
solvent | methanol | 5.2 ml | CO | CH4O
product | 8-(3-amino-2,6-dichlorobenzyloxy)-2-methylquinoline dihydrochloride | 635 mg | Cl.Cl.NC=1C(=C(COC=2C=CC=C3C=CC(=NC23)C)C(=CC1)Cl)Cl | InChI=1S/C17H14Cl2N2O.2ClH/c1-10-5-6-11-3-2-4-15(17(11)21-10)22-9-12-13(18)7-8-14(20)16(12)19;;/h2-8H,9,20H2,1H3;2*1H
